US08183275B2
2-(4-{2-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]ethyl}phenyl)-5-fluoropyridine
Hexamethylditin (174 mg, 0.53 mmol) was added to a solution of 2-[2-(4-bromophenyl)ethyl]-5-(2,2-dimethylbutyl)-1-methyl-1H-imidazole (186 mg, 0.53 mmol), 2-bromo-5-fluoropyridine (94 mg, 0.53 mmol), and tetrakis(triphenylphosphine)palladium (0), (62 mg, 0.053 mmol) in 1,4-dioxane (25 mL). The mixture was stirred overnight at 110° C. KF on Celite (1:1) was added and the solution was stirred at rt for 1 h. The mixture was filtered, and the filtrate was washed with water, dried (MgSO4), filtered, and concentrated in vacuo to give a residue. The residue was purified by flash column chromatography on silica gel eluting with 0-50% EtOAc/hexanes to provide the title compound. LC-MS: m/e 366 (M+H).

reactant | Hexamethylditin | 0.53 mmol, 174 mg | C[Sn](C)C.C[Sn](C)C
reactant | 2-[2-(4-bromophenyl)ethyl]-5-(2,2-dimethylbutyl)-1-methyl-1H-imidazole | 0.53 mmol, 186 mg | BrC1=CC=C(C=C1)CCC=1N(C(=CN1)CC(CC)(C)C)C | C18H25BrN2
reactant | 2-bromo-5-fluoropyridine | 0.53 mmol, 94 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | KF | [F-].[K+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.053 mmol, 62 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-{2-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]ethyl}phenyl)-5-fluoropyridine | CC(CC1=CN=C(N1C)CCC1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C23H28FN3
